US04845291
Preparation of 3-(3-Methylbut-2-enyl)-2,6-toluenediamine
A 200g (1.64 mol) portion of 2,6-toluenediamine, 167g (2.45 mol) of isoprene, 200g (2.78 mol) of pentane, and 20g of powdered H-Y zeolite were reacted at 150° C. in a similar fashion as indicated in Example 3. Isolation of a catalyst free sample was obtained by hot filtration. Selective removal of all residual hydrocarbon by vacuum distillation afforded the following product mixture:

reactant | 2,6-toluenediamine | C=1(C(=CC=CC1N)N)C | C7H10N2
reactant | isoprene | C=CC(C)=C | C5H8
solvent | pentane | CCCCC | C5H12
product | 3-(3-Methylbut-2-enyl)-2,6-toluenediamine | CC(=CCC1=C(C(=C(C=C1)N)C)N)C | C12H18N2
